US06784167B2
To a solution of ethyl 2-(N-methylprop-2-ynoylamino)acetate (312 mg, 1.84 mmol) in THF (6 mL) was added 3-iodoanisole (475 mg, 0.24 mL, 2.03 mmol), dichlorobis(triphenylphosphine)palladium(II) (133 mg, 0.19 mmol), copper(I) iodide (36 mg, 0.19 mmol) and Et3N (279 mg, 0.39 mL, 2.76 mmol). The resulting mixture was stirred in dark for 2 h. A saturated NH4Cl solution (30 mL) was then added and the mixture was extracted with EtOAc (2×30 mL). The combined organic layers were washed with a saturated NaCl solution (60 mL), dried (Na2SO4) and concentrated under reduced pressure to give a dark oil, which was dissolved in EtOAc and filtered through a pad of silica gel. The filtrate was concentrated under reduced pressure and the residue was purified by flash chromatography (33% EtOAc/hex) to give ethyl 2-[3-(3-methoxyphenyl)-N-methylprop-2-ynoylamino]acetate (175 mg, 35%) as a light yellow oil: 1H NMR (CDCl3; a mixture of two rotomers) δ 1.30 (t, J=7.0 Hz, 3H), 3.10 (1.35H), 3.36 (s, 1.65H), 3.81 (s, 1.35H), 3.82 (s, 1.65H), 4.20-4.30 (m, 3.2H), 4.39 (s, 0.8H), 6.97-7.29 (m, 4H); HPLC ES-MS m/z (rel abundance) 276 (MH+, 100%).

reactant | ethyl 2-(N-methylprop-2-ynoylamino)acetate | 1.84 mmol, 312 mg | CN(CC(=O)OCC)C(C#C)=O | C8H11NO3
reactant | 3-iodoanisole | 2.03 mmol, 0.24 mL, 475 mg | IC=1C=C(C=CC1)OC | C7H7IO
reactant | Et3N | 2.76 mmol, 0.39 mL, 279 mg | CCN(CC)CC | C6H15N
reactant | NH4Cl | 30 mL | [NH4+].[Cl-]
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.19 mmol, 133 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.19 mmol, 36 mg | [Cu]I
product | ethyl 2-[3-(3-methoxyphenyl)-N-methylprop-2-ynoylamino]acetate | 175 mg, 35% | COC=1C=C(C=CC1)C#CC(=O)N(C)CC(=O)OCC | C15H17NO4
